US05409928
Preparation of 2-bromo-5-t-butyldimethylsilyloxymethyltoluene
To a solution of 2-bromo-5-hydroxymethyltoluene (87.4 g) in methylene chloride (350 ml) were added, under ice-cooling with stirring, trietylamine (72.7 ml) and 4-dimethylaminopyridine (DMAP)(500 mg), and then thereto was added t-butyldimethylsilyl chloride (65.5 g). The mixture was stirred at 0° C. for 15 minutes, and stirred at room temperature for 3 hours. The reaction mixture is filtrated, and the filtrate was concentrated under reduced pressure. To the residure was added water (100 ml), and the mixture was extracted with ethyl acetate.

reactant | 2-bromo-5-hydroxymethyltoluene | 87.4 g | BrC1=C(C=C(C=C1)CO)C | C8H9BrO
reactant | trietylamine | 72.7 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 65.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 500 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-bromo-5-t-butyldimethylsilyloxymethyltoluene | BrC1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)C | C14H23BrOSi
